US05824691
The mixture of methyl 3-(3-hydroxyiminomethylpyrrol-1-yl)benzoate (9.0 g) in acetic anhydride (45 ml) was heated under reflux for 3 hours under stirring and then the reaction mixture was concentrated in vacuo. To the residue was added a mixture of ethyl acetate and water, and the whole was adjusted to pH 8 with potassium carbonate. The separated organic layer was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with chloroform. The eluted fractions containing the desired product were combined and evaporated in vacuo. The residue was triturated with a mixture of diisopropyl ether and n-hexane to give methyl 3-(3-cyanopyrrol-1-yl)benzoate (6.20 g).

reactant | methyl 3-(3-hydroxyiminomethylpyrrol-1-yl)benzoate | 9.0 g | ON=CC1=CN(C=C1)C=1C=C(C(=O)OC)C=CC1 | C13H12N2O3
solvent | acetic anhydride | 45 ml | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 3-(3-cyanopyrrol-1-yl)benzoate | 6.20 g | C(#N)C1=CN(C=C1)C=1C=C(C(=O)OC)C=CC1 | C13H10N2O2
